US07985755B2
[4-(2,4-Diamino-quinazolin-5-yl)-piperazin-1-yl]-(2,3-difluoro-phenyl)-methanone
Title compound was prepared via Resin Method using 5-piperazin-1-yl-quinazoline-2,4-diamine (50 mg; 0.2 mmol) and 2,3-difluorobenzoyl chloride (72.4 mg; 0.41 mmol) to obtain 27.6 mg. (36% yield). 1H NMR (400 MHz, DMSO-d6) δ 8.71 (s, 1H), 7.54 (m, 1H), 7.34 (m, 3H), 7.11 (br s, 1H), 6.98 (d, J=8.0 Hz, 1H), 6.84 (d, J=8.0 Hz, 1H), 5.93 (br s, 2H), 4.60 (br d, 1H), 3.50 (br s, 2H), 3.18 (m, 2H), 3.02 (m, 1H), 2.73 (m, 2H).

reactant | 5-piperazin-1-yl-quinazoline-2,4-diamine | 0.2 mmol, 50 mg | N1(CCNCC1)C1=C2C(=NC(=NC2=CC=C1)N)N | C12H16N6
reactant | 2,3-difluorobenzoyl chloride | 0.41 mmol, 72.4 mg | FC1=C(C(=O)Cl)C=CC=C1F | C7H3ClF2O
product | [4-(2,4-Diamino-quinazolin-5-yl)-piperazin-1-yl]-(2,3-difluoro-phenyl)-methanone | 36% yield | NC1=NC2=CC=CC(=C2C(=N1)N)N1CCN(CC1)C(=O)C1=C(C(=CC=C1)F)F | C19H18F2N6O
